US07754737B2
To a solution of (S)—N1-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)-N3-methoxy-N3-methylisophthalamide (0.7361 g, 1.46 mmol, 1.0 equiv) in THF (15 mL) was added 1.45 M 4-methoxybutylmagnesium chloride in THF (4 mL, 5.8 mmol, 4.0 equiv) at 0° C. under N2. After 2 h, the reaction mixture was quenched with 1 N aq HCl (15 mL) and extracted EtOAc (3×). The combined EtOAc extracts were dried over Na2SO4 and concentrated to afford crude (S)—N-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)-ethoxycarbonyl)amino)propan-2-yl)-3-(5-methoxypentanoyl)benzamide (0.758 g), which was used in the next step without further purification. LC-MS (3 min) tR=2.34 min, m/z 555 (M+Na+), 534, 505.

reactant | (S)—N1-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)-N3-methoxy-N3-methylisophthalamide | 1.46 mmol, 0.7361 g, 1.0 equiv | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(C1=CC(C(=O)N(C)OC)=CC=C1)=O | C26H43N3O5Si
reactant | 4-methoxybutylmagnesium chloride | 1.45 M | COCCCC[Mg]Cl
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.8 mmol, 4 mL, 4.0 equiv | C1CCOC1 | C4H8O
product | (S)—N-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)-ethoxycarbonyl)amino)propan-2-yl)-3-(5-methoxypentanoyl)benzamide | 0.758 g | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(C1=CC(=CC=C1)C(CCCCOC)=O)=O | C29H48N2O5Si
